US07375099B2
N-(3,5-Difluoro-benzyl)-2-fluoro-2-methyl-N′-(5-methyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-malonamide
The title compound, MS: m/e=482.3 (M+H+), was prepared in analogy to example 16 from 7-amino-5-methyl-5H,7H-dibenzo[b,d]azepin-6-one and N-(3,5-difluoro-benzyl)-2-fluoro-2-methyl-malonamic acid.

reactant | 7-amino-5-methyl-5H,7H-dibenzo[b,d]azepin-6-one | NC1C2=C(C3=C(N(C1=O)C)C=CC=C3)C=CC=C2 | C15H14N2O
reactant | N-(3,5-difluoro-benzyl)-2-fluoro-2-methyl-malonamic acid | FC=1C=C(CNC(C(C(=O)O)(C)F)=O)C=C(C1)F | C11H10F3NO3
product | N-(3,5-Difluoro-benzyl)-2-fluoro-2-methyl-N′-(5-methyl-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-malonamide | FC=1C=C(CNC(C(C(=O)NC2C3=C(C4=C(N(C2=O)C)C=CC=C4)C=CC=C3)(C)F)=O)C=C(C1)F | C26H22F3N3O3
